US07550598B2
(Z)—N-(4-(2-(3-isopropyl-5-oxo-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)phenyl)ethanesulfonamide
Example 22 was synthesized from (Z)-tert-butyl 4-(4-aminophenylthio)-2-(1-(tert-butoxycarbonyl)-3-isopropyl-5-oxo-1H-pyrazol-4(5H)-ylidene)quinoline-1(2H)-carboxylate and ethanesulfonyl chloride according to the procedure described in Example 21. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.99 (d, J=6.82 Hz, 6H) 1.27 (t, J=7.33 Hz, 3H) 2.57 (bs, 1H) 3.27 (q, J=7.33 Hz, 2H) 7.30 (d, J=8.34 Hz, 1H) 7.44 (d, J=8.59 Hz, 2H) 7.59-7.65 (m, 1H) 7.71 (d, J=8.59 Hz, 2H) 7.85-7.91 (m, 2H) 8.13 (d, J=8.34 Hz, 1H) 10.41 (s, 1H); ESI-MS: m/z calc'd for C23H24N4O3S2 468.59. found 469.2 (M+H)+.

reactant | (Z)-tert-butyl 4-(4-aminophenylthio)-2-(1-(tert-butoxycarbonyl)-3-isopropyl-5-oxo-1H-pyrazol-4(5H)-ylidene)quinoline-1(2H)-carboxylate | NC1=CC=C(C=C1)SC1=C/C(/N(C2=CC=CC=C12)C(=O)OC(C)(C)C)=C/1\C(=NN(C1=O)C(=O)OC(C)(C)C)C(C)C | C31H36N4O5S
reactant | ethanesulfonyl chloride | C(C)S(=O)(=O)Cl | C2H5ClO2S
product | (Z)—N-(4-(2-(3-isopropyl-5-oxo-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)phenyl)ethanesulfonamide | C(C)(C)C/1=NNC(\C1=C\1/NC2=CC=CC=C2C(=C1)SC1=CC=C(C=C1)NS(=O)(=O)CC)=O | C23H24N4O3S2
